US06716851B2
4-(4-Methoxyanilino)-6-methyl-2-(3-methylphenyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(3-methylphenyl)pyrimidine (100 mg, 0.457 mmol) and p-anisidine (56 mg, 0.457 mmol), similar to Example 11 as a pale green solid (39 mg, 28%). 1H NMR (DMSO-d6): 8.04 (s, 1H), 8.01-7.99 (m, 1H), 7.56-7.51 (m, 4H), 7.04 (d, J=9.0 Hz, 2H), 6.73 (s, 1H), 3.79 (s, 3H), 2.44 (s, 6H).

reactant | 4-chloro-6-methyl-2-(3-methylphenyl)pyrimidine | 0.457 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=CC(=CC=C1)C | C12H11ClN2
reactant | p-anisidine | 0.457 mmol, 56 mg | COC1=CC=C(C=C1)N | C7H9NO
product | 4-(4-Methoxyanilino)-6-methyl-2-(3-methylphenyl)pyrimidine | COC1=CC=C(NC2=NC(=NC(=C2)C)C2=CC(=CC=C2)C)C=C1 | C19H19N3O
